US05506089
By the procedure described in Ex. 8, 4-(4-methylstyryl) pyridine and 2-(2-bromoethyl) 1,3-dioxane were reacted to obtain N-[2-(1,3 dioxane-2-yl) ethyl]-4-(4methylstyryl) pyridinium bromide.

reactant | 4-(4-methylstyryl) pyridine | CC1=CC=C(C=CC2=CC=NC=C2)C=C1 | C14H13N
reactant | 2-(2-bromoethyl) 1,3-dioxane | BrCCC1OCCCO1 | C6H11BrO2
product | N-[2-(1,3 dioxane-2-yl) ethyl]-4-(4methylstyryl) pyridinium bromide | [Br-].O1C(OCCC1)CC[N+]1=CC=C(C=C1)C=CC1=CC=C(C=C1)C | InChI=1S/C20H24NO2.BrH/c1-17-3-5-18(6-4-17)7-8-19-9-12-21(13-10-19)14-11-20-22-15-2-16-23-20;/h3-10,12-13,20H,2,11,14-16H2,1H3;1H/q+1;/p-1
